US07935702B2
2. 6-(8-(Quinoxalin-2-ylamino)pyrido[2,3-b]pyrazin-3-yl)-5-(trifluoromethyl)nicotinamide
Heat a mixture of 6-(8-chloropyrido[2,3-b]pyrazin-3-yl)-5-(trifluoromethyl)nicotinamide (70.6 mg, 0.2 mmol) and 2-aminoquinoxaline (85.8 mg, 0.6 mmol) in a screw cap vial at 140° C. for 20 hours under N2 atmosphere. Purify the reaction mixture by column chromatography using 1-2% MeOH/EtOAc as eluent to afford the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 11.017 (s, 1H), 9.461 (s, 2H), 9.335 (d, 1H, J=1.1 Hz), 9.307 (s, 1H), 9.129 (d, 1H, J=1.3 Hz), 8.836 (s, 1H), 8.557(s, 1H), 7.975 (m, 3H), 7.789 (t, 1H), 7.647(t, 1H). MS=463.12 (M+H). The IC50 determined as described in Example 6 is less than 1 micromolar.

reactant | 6-(8-chloropyrido[2,3-b]pyrazin-3-yl)-5-(trifluoromethyl)nicotinamide | 0.2 mmol, 70.6 mg | ClC1=CC=NC2=NC(=CN=C21)C2=NC=C(C(=O)N)C=C2C(F)(F)F | C14H7ClF3N5O
reactant | 2-aminoquinoxaline | 0.6 mmol, 85.8 mg | NC1=NC2=CC=CC=C2N=C1 | C8H7N3
product | 6-(8-(Quinoxalin-2-ylamino)pyrido[2,3-b]pyrazin-3-yl)-5-(trifluoromethyl)nicotinamide | N1=C(C=NC2=CC=CC=C12)NC1=CC=NC2=NC(=CN=C21)C2=NC=C(C(=O)N)C=C2C(F)(F)F | C22H13F3N8O
